US06881844B2
A solution of 1-(6-chloro-1H-indol-3-yl)-2,2,2-trifluoro-ethanone in N,N-dimethylformamide (5 mL) was treated with potassium carbonate (698 mg, 5.05 mmol). The reaction was stirred at 25° C. for 15 min and then was treated with 2-iodopropane (0.30 mL, 3.03 mmol). This mixture was heated at 65° C. for 20 h. At this time, the reaction was cooled to 25° C., quenched with water (5 mL), and then partitioned between water (50 mL) and ethyl acetate (50 mL). This mixture was treated with a saturated aqueous sodium chloride solution (1×25 mL), shaken, and separated. The organic layer was then dried over magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica, 3/1 hexanes/ethyl acetate) afforded 1-(6-chloro-1-isopropyl-1H-indol-3-yl)-2,2,2-trifluoro-ethanone (483 mg, 83%) as a pale pink solid: mp 94-96° C.; EI-HRMS m/e calcd for C13H12ClF3NO (M+) 289.0481, found 289.0482.

reactant | 1-(6-chloro-1H-indol-3-yl)-2,2,2-trifluoro-ethanone | ClC1=CC=C2C(=CNC2=C1)C(C(F)(F)F)=O | C10H5ClF3NO
reactant | potassium carbonate | 5.05 mmol, 698 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 3.03 mmol, 0.30 mL | IC(C)C | C3H7I
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-(6-chloro-1-isopropyl-1H-indol-3-yl)-2,2,2-trifluoro-ethanone | 483 mg, 83% | ClC1=CC=C2C(=CN(C2=C1)C(C)C)C(C(F)(F)F)=O | C13H11ClF3NO
